US06177429B1
4-[3-[[[[3-[4-(3-Methoxyphenyl)-1-piperidinyl]propyl]amino]-carbonyl]amino]phenyl]-1,4-dihydro-2,6-dimethyl-3,5-pyrazinedicarboxylic acid, dimethyl ester
4-(3-Aminophenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyrazinedicarboxylic acid, dimethyl ester (150 mg, 0.47 mmol) was slowly added into a mixture of 1,1′-carbonyidiimidazole (117 mg, 0.72 mmol) and triethylamine (145 mg, 1.44 mmol) in 5 mL of DMF and the reaction mixture was stirred for 60 min. 4-(3-Methoxyphenyl)piperidine-1-propanamine (176 mg, 0.69 mmol) was added to the reaction mixture, and the reaction was stirred at room temperature for 30 min. DMF was removed in vacuo and the residue was purified by chromatography (on silica gel, 10% (v/v) methanol in methylene chloride then followed by 2M ammonia in methanol) to give the title compound as an orange foam (200 mg, 72%); 1H-NMR (CDCl3) δ 7.55 (br, 1H), 7.35 (br, 1H), 7.20 (t, 1H, J=7.6 Hz), 6.92 (t, 1H, J=8.1 Hz), 6.60-6.80 (m, 4H), 6.54 (d, 1H, J=7.6 Hz), 6.32 (dd, 1H, J=8.2, 2.0 Hz), 5.99 (br, 1H), 3.77 (s, 3H), 3.71 (s, 6H), 3.16 (m, 2H), 3.03 (m, 2H), 2.46 (m, 3H), 2.29 (s, 6H), 1.95-2.20 (m, 2H), 1.60-1.90 (m, 6H); 13C-NMR (CDCl3) δ 166.6, 159.7, 156.8, 151.9, 149.7, 147.4, 139.4, 129.5, 129.2, 119.3, 112.9, 111.4, 108.9, 108.5, 106.1, 56.0, 55.2, 54.1, 51.7, 42.2, 38.6, 32.8, 26.8, and 17.6.

reactant | 4-(3-Aminophenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyrazinedicarboxylic acid, dimethyl ester | 0.47 mmol, 150 mg | NC=1C=C(C=CC1)N1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C16H19N3O4
reactant | 1,1′-carbonyidiimidazole | 0.72 mmol, 117 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | triethylamine | 1.44 mmol, 145 mg | C(C)N(CC)CC | C6H15N
reactant | 4-(3-Methoxyphenyl)piperidine-1-propanamine | 0.69 mmol, 176 mg | COC=1C=C(C=CC1)C1CCN(CC1)CCCN | C15H24N2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-[3-[[[[3-[4-(3-Methoxyphenyl)-1-piperidinyl]propyl]amino]-carbonyl]amino]phenyl]-1,4-dihydro-2,6-dimethyl-3,5-pyrazinedicarboxylic acid, dimethyl ester | 200 mg, 72% | COC=1C=C(C=CC1)C1CCN(CC1)CCCNC(=O)NC=1C=C(C=CC1)N1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C32H41N5O6
